US07666878B2
127a) 2-Ethoxy-4-nitro-benzonitrile
To a solution of 2-hydroxy-4-nitrobenzonitrile (0.5 g, 3.04 mmol) in DMF (5 ml) is added potassium carbonate (0.631 g, 4.56 mmol) followed by bromoethane (0.238 ml, 3.19 mmol) and the reaction mixture is stirred at room temperature for 5 days. The solvent is removed in vacuo and the crude is partitioned between ethyl acetate (100 ml) and water (100 ml). The organic layer is separated, washed with water (2×100 ml), saturated sodium hydrogen carbonate solution (100 ml) and concentrated in vacuo to afford the titled compound as a pale yellow solid which is used crude in the next step.

reactant | 2-hydroxy-4-nitrobenzonitrile | 3.04 mmol, 0.5 g | OC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H4N2O3
reactant | potassium carbonate | 4.56 mmol, 0.631 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethane | 3.19 mmol, 0.238 ml | BrCC | C2H5Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-Ethoxy-4-nitro-benzonitrile | C(C)OC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C9H8N2O3
